US04035423
105 g of aniline is dissolved in 290 ml of conc. hydrochloric acid and 350 ml of water, and the solution is cooled to 0° to 5°. At this temperature, an addition is made dropwise, with stirring, of a solution of 84 g of sodium nitrite in 250 ml of water. After 10 minutes' stirring at 0° to 5°, the diazonium salt solution is rendered neutral with 105 g of sodium bicarbonate, and 48 g of sodium acetate (anhydrous) is added. This solution is added dropwise, with stirring, to a solution, cooled to 0° to 5°, of 138 g of 2-ethoxy-phenol in 4300 ml of ethanol, with the temperature being maintained at 0° to 5°. After four hours' stirring at this temperature the greater part of ethanol becomes distilled off. After stirring of the residue with 2000 ml of water, the product is taken up in chloroform. The chloroform layer is subsequently washed with water, dried by means of magnesium sulphate and concentrated by evaporation. There is obtained 3-ethoxy-4-hydroxy-azobenzene, which, as liquid crude product, is used in the next reaction stage.

reactant | aniline | 105 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium nitrite | 84 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | 105 g | C([O-])(O)=O.[Na+]
reactant | sodium acetate | 48 g | C(C)(=O)[O-].[Na+]
reactant | 2-ethoxy-phenol | 138 g | C(C)OC1=C(C=CC=C1)O | C8H10O2
solvent | hydrochloric acid | 290 ml | Cl | ClH
solvent | water | 350 ml | O | H2O
solvent | water | 250 ml | O | H2O
solvent | ethanol | 4300 ml | C(C)O | C2H6O
product | 3-ethoxy-4-hydroxy-azobenzene | C(C)OC=1C=C(C=CC1O)N=NC1=CC=CC=C1 | C14H14N2O2
